US08563575B2
72a) tert-Butyl 5-[1-(1-methylethyl)-2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl]-2,3-dihydro-1H-indole-1-carboxylate
A mixture of tert-butyl 5-(2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)-2,3-dihydro-1H-indole-1-carboxylate (1480 mg) and 2-iodopropane (714 mg) in DMF (5 mL) was stirred at 60° C. for 4 h, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was chromatographed on silica gel eluting with AcOEt/Hexane to give the title compound as white crystals (570 mg).

reactant | tert-butyl 5-(2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)-2,3-dihydro-1H-indole-1-carboxylate | 1480 mg | O=C1NC=2C(=NC=CC2)N1C=1C=C2CCN(C2=CC1)C(=O)OC(C)(C)C | C19H20N4O3
reactant | 2-iodopropane | 714 mg | IC(C)C | C3H7I
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 5-[1-(1-methylethyl)-2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl]-2,3-dihydro-1H-indole-1-carboxylate | 570 mg | CC(C)N1C(N(C2=NC=CC=C21)C=2C=C1CCN(C1=CC2)C(=O)OC(C)(C)C)=O | C22H26N4O3
